US05864039
Anisole (1.16 g), 6-bromohexanoyl chloride (2.3 g) and aluminum chloride (1.5 g) were reacted and treated in the same manner as in Preparation Example 105 to give 3.07 g of 6-bromo-1-(4-methoxyphenyl)-1-hexanone.

reactant | Anisole | 1.16 g | C1(=CC=CC=C1)OC | C7H8O
reactant | 6-bromohexanoyl chloride | 2.3 g | BrCCCCCC(=O)Cl | C6H10BrClO
reactant | aluminum chloride | 1.5 g | [Cl-].[Al+3].[Cl-].[Cl-]
product | 6-bromo-1-(4-methoxyphenyl)-1-hexanone | 3.07 g | BrCCCCCC(=O)C1=CC=C(C=C1)OC | C13H17BrO2
